US07091353B2
2-(2,6-Dioxo-piperidin-3-yl)-4-[(pyridin-3-ylmethyl)-amino]-isoindole-1,3-dione I-128
3-[(Pyridin-3-ylmethyl)-amino]-phthalic acid (3.03 mmol) was treated in the same manner as described above for the synthesis of 2-(2,6-dioxo-piperidin-3-yl)-4-(2-methoxy-ethylamino)-isoindole-1,3-dione. The solid yellow residue was slurried in 50% methanol/ethyl acetate (20 ml) for 18 h to give 0.50 g (46%) of product as a yellow solid: mp 231–233° C.; 1H NMR (DMSO-d6) δ 11.14 (s, 1H), 8.63 (s, 1H), 8.47 (s, 1H), 7.78 (d, J=7.7 Hz, 1H), 7.53 (t, J=7.8 Hz, 1H), 7.39–7.30 (m, 2H), 7.03 (t, J=6.6 Hz, 2H), 5.09 (dd, J=5.2 and 12.4 Hz, 1H), 4.61 (d, J=6.0 Hz, 2H), 2.97–2.84 (m, 1H), 2.64–2.48 (m, 2H), 2.08–2.04 (m, 1H); 13C NMR (DMSO-d6) δ 172.78, 170.05, 168.65, 167.22, 148.66, 148.27, 145.75, 136.14, 134.79, 134.54, 132.25, 123.58, 117.50, 110.92, 109.82, 48.57, 42.99, 30.96, 22.12; Anal. Calcd. For C19H16N4O4: C, 62.63; H, 4.43; N, 15.38. Found: C, 62.30; H, 4.27; N, 15.30.

reactant | 3-[(Pyridin-3-ylmethyl)-amino]-phthalic acid | 3.03 mmol | N1=CC(=CC=C1)CNC1=C(C(C(=O)O)=CC=C1)C(=O)O | C14H12N2O4
reactant | 2-(2,6-dioxo-piperidin-3-yl)-4-(2-methoxy-ethylamino)-isoindole-1,3-dione | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NCCOC)=O)=O | C16H17N3O5
solvent | methanol ethyl acetate | 20 ml | CO.C(C)(=O)OCC
product | 2-(2,6-Dioxo-piperidin-3-yl)-4-[(pyridin-3-ylmethyl)-amino]-isoindole-1,3-dione | 0.50 g, 46% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NCC=1C=NC=CC1)=O)=O | C19H16N4O4
